US04438267
A. 2,4-Diamino-5-(4-hydroxy-3-methoxy-1-naphthylmethyl)pyrimidine
The formate of 2-methoxy-1-naphthol (J. E. Oatis, Jr., M. P. Russell, D. R. Knapp and T. Walle, J. Med. Chem. 1981, 24, 309) (7.23 g, 30.3 mmol), 2,4-diamino-5-hydroxymethylpyrimidine (4.35 g, 30.3 mmol), concentrated hydrochloric acid (4.2 mL) and glacial acetic acid (60 mL) were refluxed 2 hr. The resulting dark solution was evaporated to dryness and the residue dissolved in water and neutralized with ammonia. The resulting tan precipitate (5.2 g) was recrystallized from aqueous ethanol containing a slight excess of hydrochloric acid to give title compound as tan powder (2.83 g, 28%); mp ca. 290°-300° dec. Anal. Calcd for C16H16N4O2.HCl: C, 57.75; H, 5.15; N, 16.84; Cl, 10.65. Found: C, 57.62; N, 5.21; N, 16.79; Cl, 10.61.

reactant | formate | C(=O)[O-]
reactant | 2-methoxy-1-naphthol | 30.3 mmol, 7.23 g | COC1=C(C2=CC=CC=C2C=C1)O | C11H10O2
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 30.3 mmol, 4.35 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | hydrochloric acid | 4.2 mL | Cl | ClH
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2,4-Diamino-5-(4-hydroxy-3-methoxy-1-naphthylmethyl)pyrimidine | 2.83 g, 28% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=CC=CC=C12)O)OC | C16H16N4O2
